US05952354
Carbonic acid (4-nitrophenyl)ester (4-pentylphenyl) ester
A solution of 4-pentylphenol (20.1 g, 0.13 mol) and pyridine (10 ml, 0.13 mol) in 300 ml of methylene chloride was added under nitrogen dropwise over 45 minutes to a solution of 4-nitrophenyl chloroformate (25.28 g, 0.13 mol) in 200 ml of methylene chloride at room temperature. After the addition, the reaction was stirred overnight at room temperature. The reaction was extracted one time with 1N HCl, four times with saturated Na2CO3, dried (MgSO4) and the solvent removed under reduced pressure to give 36.97 g of a yellow crytstalline solid. Purification of the solid on 450 g of silica gel (230-400 mesh) using 50-60% CH2Cl2 -hexane as the eluent gave 11.58 g (28%) of the title compound as a yellow crystalline solid, mp 67-69° C.

reactant | 4-pentylphenol | 0.13 mol, 20.1 g | C(CCCC)C1=CC=C(C=C1)O | C11H16O
reactant | pyridine | 0.13 mol, 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 0.13 mol, 25.28 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Carbonic acid (4-nitrophenyl)ester (4-pentylphenyl) ester | 11.58 g, 28% | C(CCCC)C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H19NO5
